US07375220B2
0.76 g (7.5 mmol) triethylamin were added to a solution of 2 g (7.5 mmol) 3,4,6,7,8,9-hexahydro-2-methyl-3-oxo-2H-naphtho[2,3-e]-1,2-thiazine 1,1-dioxide and 1.03 g (7.5 mmol) p-fluor-phenylisocyanate dissolved in 50 mL DMSO (dimethyl sulfoxide) at room temperature. After stirring for 1 hr the resulting mixture was quenched with dilute HCl in an ice bath and then extracted with ether (2 times). The combined ether extracts were washed, dried and concentrated to give 2.3 g crude product. This material was recrystallized from ethanol to give 1.7 g 3,4,6,7,8,9-hexahydro-2-methyl-3-oxo-2H-naphtho[2,3-e]-1,2-thiazine-4-(4-fluor)carboxanilide 1,1-dioxide.

reactant | triethylamin | 7.5 mmol, 0.76 g | C(C)N(CC)CC | C6H15N
reactant | 3,4,6,7,8,9-hexahydro-2-methyl-3-oxo-2H-naphtho[2,3-e]-1,2-thiazine 1,1-dioxide | 7.5 mmol, 2 g | CN1S(C2=C(CC1=O)C=C1CCCCC1=C2)(=O)=O | C13H15NO3S
reactant | p-fluor-phenylisocyanate | 7.5 mmol, 1.03 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 3,4,6,7,8,9-hexahydro-2-methyl-3-oxo-2H-naphtho[2,3-e]-1,2-thiazine | 1.7 g, Yield: 56% | CN1SC2=C(CC1=O)C=C1CCCCC1=C2 | C13H15NOS
